US07109354B2
a) 1-(3-Bromo-phenyl)-2,2,2-trifluoro-ethanone
In a dry round bottom flask, 3-bromo-benzoic acid methyl ester (2 g, 9.3 mmol, Aldrich Chemical Company) and trimethyl(trifluoromethyl)silane (1.72 mL, 11.6 mmol, Aldrich Chemical Company) were dissolved in dry toluene (50 mL). Upon cooling the solution to −78° C., TBAF (232 μL, 0.23 mmol) was added and the reaction was allowed to warm up slowly to rt overnight. After stirring for 20 hr, 2N HCl (50 mL) and EtOAc (100 mL) were added, the layers were separated, and the aqueous layer was extracted with another portion of EtOAc. The combined organic fractions were dried (MgSO4), concentrated in vacuo, and resulting crude oil was purified using SiO2 flash chromatography (elution: 5–20% EtOAc in hexanes) to give 1.5 g (65%) the title compound as a light yellow oil. 1H-NMR (CDCl3; 400 MHz) δ 8.18 (br s, 1H), 7.98–8.00 (m, 1H), 7.82–7.85 (m, 1H), 7.42–7.46 (m, 1H). 19F-NMR (CDCl3; 400 MHz) δ −72.06 (s).

reactant | 3-bromo-benzoic acid methyl ester | 9.3 mmol, 2 g | COC(C1=CC(=CC=C1)Br)=O | C8H7BrO2
reactant | trimethyl(trifluoromethyl)silane | 11.6 mmol, 1.72 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | HCl | 2N, 50 mL | Cl | ClH
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | TBAF | 0.23 mmol, 232 μL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 1-(3-Bromo-phenyl)-2,2,2-trifluoro-ethanone | 1.5 g, 65% | BrC=1C=C(C=CC1)C(C(F)(F)F)=O | C8H4BrF3O
